US08748632B2
Pyridine (2.05 mL, 25 mmol) and acetyl chloride (0.89 mL, 12.5 mmol were added to a solution of 4-methoxy salicylic acid (0.84 g, 5 mmol) in CH2Cl2 (20 mL) at 0° C. The reaction mixture was gradually warmed to room temperature over 30 min and then poured into water. The resulting biphasic mixture was further stirred for 1 h and then acidified with 1 N HCl and extracted with ethyl acetate. The crude acetoxy compound (assuming 100% conversion) obtained was then converted to the acid chloride by heating to reflux with oxalyl chloride (1.3 mL, 15 mmol) in CH2Cl2 (20 mL) for 1 h. After removal of the volatile materials, the acid chloride (1.05 g, 4.38 mmol) in CH2Cl2 (20 mL) was added to a stirred mixture of sodium carbonate (1N, 17.5 mL) and C5H9NH.OH (1.32 g, 13.2 mmol) in tetrahydrofuran (30 mL) at 0° C. The resulting mixture was stirred at room temperature for 1 h and then acidified with 0.5 M HCl and then extracted with ethyl acetate. The crude product was purified by column chromatography on silica using hexanes:ethyl acetate to afford N-cyclopentyl-N,2-dihydroxy-4-methoxybenzamide (1 g, 79%) as a colorless solid. 1H NMR (300 MHz, DMSO-d6): δ 7.88 (d, 1H, J=8.6 Hz), 6.92 (d, 1H, J=8.6 Hz), 6.82 (s, 1H), 3.80 (s, 3H), 3.79-3.70 (m, 1H), 1.69-1.63 (m, 2H), 1.55-1.52 (m, 6H). LC-MS (ESI) Calcd for C13H17NO4 [M+H]+: 252.12. Found: 252.00.

reactant | Pyridine | 25 mmol, 2.05 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | 4-methoxy salicylic acid | 5 mmol, 0.84 g | COC=1C=C(C(C(=O)O)=CC1)O | C8H8O4
reactant | HCl | 1 N | Cl | ClH
reactant | oxalyl chloride | 15 mmol, 1.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium carbonate | 1N, 17.5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 0.5 M | Cl | ClH
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-cyclopentyl-N,2-dihydroxy-4-methoxybenzamide | 1 g, 79% | C1(CCCC1)N(C(C1=C(C=C(C=C1)OC)O)=O)O | C13H17NO4
